US06692889B1
Production of 1-(1-Acryloyloxy-1-ethylpropyl)adamantane [4-1 (Acrylate)]
A total of 15 mmole of acrylyl chloride was added dropwise to a mixture of 10 mmole of α,α-diethyl-1-adamantanemethanol thus obtained, 20 mmole of triethylamine and 40 ml of tetrahydrofuran over about 30 minutes. After the completion of addition, the resulting mixture was stirred at room temperature for 6 hours. After adding water, the reaction mixture was concentrated, and the concentrate was subjected to column chromatography on a silica gel to thereby yield the title compound in a yield of 72%.

reactant | acrylyl chloride | 15 mmole | C(C=C)(=O)Cl | C3H3ClO
reactant | α,α-diethyl-1-adamantanemethanol | 10 mmole | C(C)C(O)(C12CC3CC(CC(C1)C3)C2)CC | C15H26O
reactant | triethylamine | 20 mmole | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(1-Acryloyloxy-1-ethylpropyl)adamantane | yield of 72% | C(C=C)(=O)OC(CC)(CC)C12CC3CC(CC(C1)C3)C2 | C18H28O2
